US09216173B2
To a solution of ethoxycarbonyl N-(tert-butoxycarbonyl)-S-methylcysteinate (18.5 g, 60.3 mmol) in methanol (300 mL) was added sodium borohydride (9.12 g, 0.240 mol) at 0° C., and then the reaction mixture was allowed to warm to ambient temperature. After 2 hours, the reaction mixture was diluted with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give tert-butyl [1-hydroxy-3-(methylsulfanyl)propan-2-yl]carbamate which was used without further purification.

reactant | ethoxycarbonyl N-(tert-butoxycarbonyl)-S-methylcysteinate | 60.3 mmol, 18.5 g | C(C)(C)(C)OC(=O)N[C@@H](CSC)C(=O)OC(=O)OCC | C12H21NO6S
reactant | sodium borohydride | 0.240 mol, 9.12 g | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | tert-butyl [1-hydroxy-3-(methylsulfanyl)propan-2-yl]carbamate | OCC(CSC)NC(OC(C)(C)C)=O | C9H19NO3S
